US05126065
Next, 1 L of tetrahydrofuran solution (concentration: approximately 2 mols/liter) of methylmagnesium bromide was placed in a three-liter four-necked flask, and the mixture of 260 g of acetyl norbornane obtained above and 500 ml of ethyl ether was added dropwise while stirred. After completion of the reaction, the reaction mixture was post treated by the ordinary method, and distilled, to obtain 210 g of isopropylidene norbornane with a purity of 90%.

reactant | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | acetyl norbornane | 260 g | C(C)(=O)C12CCC(CC1)C2 | C9H14O
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | isopropylidene norbornane | 210 g | C(C)(C)=C1C2CCC(C1)C2 | C10H16
